US06204278B1
Cyclobutanecarbonyl chloride (2.37 g, 20 mmols) was added to a chloroform (30 ml) solution of benzyl alcohol (2.16 g, 20 mmols) and triethylamine (2.2 g, 22 mmols) with cooling with ice, and then heated under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with water and extracted with ether. The organic layer was washed with 1 N HCl, an aqueous saturated solution of sodium hydrogencarbonate and saturated saline in that order, and dried with anhydrous magnesium sulfate and the solvent was evaporated. The resulting oil was purified through silica gel column chromatography (developer: hexane/acetone=10/1) and distilled (110° C./1.2 mmHg) to obtain 2.14 g (yield: 56%) of benzyl cyclobutanecarboxylate as a colorless oil.

reactant | Cyclobutanecarbonyl chloride | 20 mmols, 2.37 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | benzyl alcohol | 20 mmols, 2.16 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 22 mmols, 2.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl cyclobutanecarboxylate | 2.14 g, yield: 56% | C1(CCC1)C(=O)OCC1=CC=CC=C1 | C12H14O2
